US06927303B2
To a solution of 5-tert-butoxycarbonylamino-2-hydroxybenzoic acid (1.02 g, 4.02 mmole) in DMF (20.0 ml) was added with acetyl chloride (39 mg, 4.83 mmole) and potassium carbonate (555 mg, 4.02 mmole). The reaction mixture was stirred for 4 hr at room temperature. After the reaction mixture was concentrated, the residue was dissolved in ethyl acetate. The organic layer was washed with water and brine and dried over anhydrous Na2SO4. After evaporation of the solvent, the residue was recrystallized from ethyl acetate/hexane to give 0.62 g (52% yield) of 2-ethanoyloxy-5-tert-butoxycarbonylaminobenzoic acid as a white solid.

reactant | 5-tert-butoxycarbonylamino-2-hydroxybenzoic acid | 4.02 mmole, 1.02 g | C(C)(C)(C)OC(=O)NC=1C=CC(=C(C(=O)O)C1)O | C12H15NO5
reactant | acetyl chloride | 4.83 mmole, 39 mg | C(C)(=O)Cl | C2H3ClO
reactant | potassium carbonate | 4.02 mmole, 555 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20.0 ml | CN(C)C=O | C3H7NO
product | 2-ethanoyloxy-5-tert-butoxycarbonylaminobenzoic acid | 0.62 g, 52% yield | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)NC(=O)OC(C)(C)C | C14H17NO6
